US06610688B2
Synthesis of 5-[4-(3-Chloro-4-fluoro-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-4-methyl-1H-pyrrole-2-carboxylic Acid (Formula 47)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (70 mg, 0.25 mmol), 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (45.9 mg, 0.3 mmol) and piperidine (3 drops) in ethanol (2 mL) was stirred at room temperature for 4 days.The precipitate was collected by vacuum filtration, washed with ethanol and dried, then washed with 1N HCl (3×), water (5×) and dried to give 88.8 mg (86%) of the title compound. 1H NMR (360 MHz, DMSO-d6) δ 13.55 (br s, 1H, NH), 11.84 (br s, 1H, NH), 9.28 (s, 1H), 8.34 (s, 1H), 7.74 (m, 1H), 7.43 (m, 1H), 7.41 (s, 1H), 7.38 (t, J=9.1 Hz, 1H), 6.74 (d, J=2.15 Hz, 1H), 2.22 (s, 3H, CH3). MS 414 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.25 mmol, 70 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid | 0.3 mmol, 45.9 mg | C(=O)C1=C(C=C(N1)C(=O)O)C | C7H7NO3
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-[4-(3-Chloro-4-fluoro-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-4-methyl-1H-pyrrole-2-carboxylic Acid | 88.8 mg, 86% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC2=C(C=C(N2)C(=O)O)C)=O | C19H13ClFN5O3
